US05284840
17-Ethyl-1,14,16-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione
A solution of 0.101 g (0.1 mmole) of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetrone in 5 mL of dry THF was cooled to 0° C. under nitrogen. Then 1 mL of a 0.5M solution of methyllithium was added dropwise and the solution was stirred at -78° C. for 24 h. The solution was quenched at -78° C. by addition of 0.2 mL of glacial acetic acid and then diluted with 20 mL of ether and partitioned between ether and 1M KHCO3 solution. The ether layer was washed with 1M KHCO3 and brine, dried over MgSO4, and concentrated. The residue was dissolved in 2 mL of 1:9 48% aqueous HF-acetonitrile was stirred at room temperature for 8 h. The reaction was quenched by addition of 2 mL of ethoxytrimethylsilane and the solution was concentrated to dryness under vacuum. The residue was purified by flash chromatography (2×20 cm silica gel) using 25% acetone-hexane to afford 0.053 g (68%) of the title compound as a white solid.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetrone | 0.1 mmole, 0.101 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | methyllithium | C[Li]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 17-Ethyl-1,14,16-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-16-methyl-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10-trione | 0.053 g, 68% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)(C)O | C44H73NO12
